US06521658B1
1-methyl-5-indolinesulfonyl chloride
A solution of chlorosulfonic acid at 0° C. (5 mL, 75 mmol) was treated portionwise with 1-methylindoline (CAS No. [824-21-5], 1.96 g, 14.7 mmol), warmed to room temperature, heated at 75° C. for 40 minutes, cooled, and poured onto ice to provide a solid. The solid was collected by suction filtration, washed with water, and dried to provide 927 mg of the desired product.

reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | 1-methylindoline | CN1CCC2=CC=CC=C12 | C9H11N
product | 1-methyl-5-indolinesulfonyl chloride | 927 mg | CN1CCC2=CC(=CC=C12)S(=O)(=O)Cl | C9H10ClNO2S
